US07718650B2
3,4-Dimethoxy-N-{4-(4-methyl-1-piperazinyl)-2-[(phenylsulfonyl)-amino]phenyl}benzenesulfonamide hydrochloride (Scheme 2, Method 3)
N-[5-(4-Methyl-1-piperazinyl)-2-nitrophenyl]benzenesulfonamide (0.600 g, 1.59 mmol) was dissolved in THF (20 mL) followed by the addition of Raney-Ni (0.322 g, in ethanol) and hydrazine hydrate (0.100 g, 2.0 mmol). The reaction mixture was stirred for 1 h, filtered through Celite and concentrated. The residue was dissolved in pyridine (12 mL) and divided in 12 equal parts. To one part was added 3,4-dimethoxy-benzenesulfonylchloride (47 mg, 0.20 mmol). The reaction mixture was stirred overnight, poured into petroleum ether to form a precipitate that was collected by centrifugation. The precipitate was purified by column chromatography (SiO2, CH2Cl2/MeOH 95:5 to 9:1). The pure product was dissolved in MeOH and treated with HCl/diethyl ether to give 34.5 mg, (45% yield). MS (posES-FIA) m/z=found: 547.4; Calcd: 546.16.

reactant | N-[5-(4-Methyl-1-piperazinyl)-2-nitrophenyl]benzenesulfonamide | 1.59 mmol, 0.600 g | CN1CCN(CC1)C=1C=CC(=C(C1)NS(=O)(=O)C1=CC=CC=C1)[N+](=O)[O-] | C17H20N4O4S
reactant | hydrazine hydrate | 2.0 mmol, 0.100 g | O.NN
reactant | 3,4-dimethoxy-benzenesulfonylchloride | 0.20 mmol, 47 mg | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Ni | 0.322 g | [Ni] | Ni
product | 3,4-Dimethoxy-N-{4-(4-methyl-1-piperazinyl)-2-[(phenylsulfonyl)-amino]phenyl}benzenesulfonamide hydrochloride | 45% yield | Cl.COC=1C=C(C=CC1OC)S(=O)(=O)NC1=C(C=C(C=C1)N1CCN(CC1)C)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C25H30N4O6S2.ClH/c1-28-13-15-29(16-14-28)19-9-11-22(23(17-19)27-36(30,31)20-7-5-4-6-8-20)26-37(32,33)21-10-12-24(34-2)25(18-21)35-3;/h4-12,17-18,26-27H,13-16H2,1-3H3;1H
